US07834035B2
A mixture of 1-(4-fluoro-benzoyl)-(S)-piperidine-3-carboxylic acid hydrazide hydrochloride, already prepared as described in Example 57 (C) (2.97 g, 11.2 mmol), 4-fluorobenzoic acid (1.68 g, 11.2 mmol), HOBT (1.5 g, 11.2 mmol), EDCI.HCl (3.2 g, 16.8 mmol) and dry triethylamine (5.43 mL, 39.5 mmol) in dry dichloromethane (80 mL) was kept under stirring overnight at ambient temperature, under nitrogen atmosphere. HCl 1N (80 mL) was then added and the phases separated. The organic layer was washed with HCl 1N (80 mL), with NaOH 1N (80 mL×2 times), then with water (80 mL). Evaporation of the organic solvent afforded a crude oil which was purified by flash chromatography (silica gel, eluent: DCM/MeOH/NH4OH 98/2/0.2). The compound obtained after column chromatography was purified again by flash chromatography (silica gel, eluent: DCM/MeOH/NH4OH 98/2/0.2) to provide the pure 4-fluoro-benzoic acid N′-[(S)-1-(4-fluoro-benzoyl)-piperidine-3-carbonyl]-hydrazide as a white solid (250 mg).

reactant | 1-(4-fluoro-benzoyl)-(S)-piperidine-3-carboxylic acid hydrazide hydrochloride | Cl.FC1=CC=C(C(=O)N2C[C@H](CCC2)C(=O)NN)C=C1
reactant | 4-fluorobenzoic acid | 11.2 mmol, 1.68 g | FC1=CC=C(C(=O)O)C=C1 | C7H5FO2
reactant | HOBT | 11.2 mmol, 1.5 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI.HCl | 16.8 mmol, 3.2 g | CCN=C=NCCCN(C)C.Cl
reactant | triethylamine | 39.5 mmol, 5.43 mL | C(C)N(CC)CC | C6H15N
reactant | HCl | 1N, 80 mL | Cl | ClH
solvent | dichloromethane | 80 mL | ClCCl | CH2Cl2
product | 4-fluoro-benzoic acid N′-[(S)-1-(4-fluoro-benzoyl)-piperidine-3-carbonyl]-hydrazide | 250 mg, Yield: 6% | FC1=CC=C(C(=O)N2C[C@H](CCC2)C(=O)NNC(C2=CC=C(C=C2)F)=O)C=C1 | C20H19F2N3O3
